US07253165B2
Synthesis of (R)-1-[3-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxy]-3-(indan-1-ylamino)-propan-2-ol (Scheme III, Compound 1)
The title compound is prepared from a mixture of (R)-6-fluoro-3-(3-oxiranylmethoxy-phenyl)-benzo[d]isoxazole in dichloroethane, 1-aminoindan and ethanol, essentially as described above in Example 57. Purity by LC/MS=91%, [M+H]+=419.

reactant | (R)-6-fluoro-3-(3-oxiranylmethoxy-phenyl)-benzo[d]isoxazole | FC1=CC2=C(C(=NO2)C2=CC(=CC=C2)OC[C@@H]2OC2)C=C1 | C16H12FNO3
reactant | dichloroethane | ClC(C)Cl | C2H4Cl2
solvent | 1-aminoindan | NC1CCC2=CC=CC=C12 | C9H11N
solvent | ethanol | C(C)O | C2H6O
product | (R)-1-[3-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxy]-3-(indan-1-ylamino)-propan-2-ol | FC1=CC2=C(C(=NO2)C=2C=C(OC[C@@H](CNC3CCC4=CC=CC=C34)O)C=CC2)C=C1 | C25H23FN2O3
